US04490369
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3[N-methyl-N-(1-methyl-2-{4-amino-3,5-dichlorophenyl}-ethyl)-amino]-propane hydrochloride
This compound was prepared analogous to Example 5(b) from 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane and N-methyl-N-[2-(4-amino-3,5-dichloro-phenyl)-1-methyl-ethyl]-amine.

reactant | 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | N-methyl-N-[2-(4-amino-3,5-dichloro-phenyl)-1-methyl-ethyl]-amine | CNC(CC1=CC(=C(C(=C1)Cl)N)Cl)C | C10H14Cl2N2
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3[N-methyl-N-(1-methyl-2-{4-amino-3,5-dichlorophenyl}-ethyl)-amino]-propane hydrochloride | Cl.COC1=CC2=C(CC(N(CC2)CCCN(C(CC2=CC(=C(C(=C2)Cl)N)Cl)C)C)=O)C=C1OC | InChI=1S/C25H33Cl2N3O3.ClH/c1-16(10-17-11-20(26)25(28)21(27)12-17)29(2)7-5-8-30-9-6-18-13-22(32-3)23(33-4)14-19(18)15-24(30)31;/h11-14,16H,5-10,15,28H2,1-4H3;1H
